US09102623B2
A9.1) 4-Butoxy-1,1-difluorobut-3-en-2-one
With stirring at 5° C., 10.0 g (55.7 mmol) of difluoroacetic anhydride were added to a mixture of 4.41 g (4.5 ml, 55.7 mmol) of pyridine and 5.7 g (55.7 mmol) butyl vinyl ether in 330 ml of trichloromethane. After the addition, stirring was continued at room temperature for a further 15 h. 300 ml of water were then added to the mixture, and the organic phase was separated off, dried and concentrated. This gave 5.7 g (57% of theory) of a yellowish oil.

reactant | difluoroacetic anhydride | 55.7 mmol, 10.0 g | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
reactant | pyridine | 55.7 mmol, 4.5 ml, 4.41 g | N1=CC=CC=C1 | C5H5N
reactant | butyl vinyl ether | 55.7 mmol, 5.7 g | C(=C)OCCCC | C6H12O
reactant | water | 300 ml | O | H2O
solvent | trichloromethane | 330 ml | ClC(Cl)Cl | CHCl3
product | 4-Butoxy-1,1-difluorobut-3-en-2-one | C(CCC)OC=CC(C(F)F)=O | C8H12F2O2
